US07244729B2
{6-[4-(4-Methyl-piperazin-1-ylmethyl)-phenyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}-((R)-1-phenyl-ethyl)-amine
A mixture of 10.8 g (30 mmol) [6-(4-chloromethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-((R)-1-phenyl-ethyl)-amine in 450 ml DMF is treated with 6.8 ml (63 mmol) N-methylpiperazine and 20.7 g (150 mmol) anhydrous potassium carbonate and the mixture heated to 65° C. for 1 hour. The reaction mixture is cooled and the inorganic salts removed by filtration (Hyflo Super Cel®; Fluka, Buchs, Switzerland). The DMF is evaporated under reduced pressure and the residue purified through flash chromatography using first dichloromethane/ethanol 9:1 and then dichloromethane/ethanol 9:1 plus 1% conc. ammonia. Crystallization of the pure fractions from THF (20 ml) and hexanes (80 ml) gives the title compound; m.p. 248-250° C.; MS-ES+: (M+H)+=427.

reactant | [6-(4-chloromethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-((R)-1-phenyl-ethyl)-amine | 30 mmol, 10.8 g | ClCC1=CC=C(C=C1)C1=CC2=C(N=CN=C2N[C@H](C)C2=CC=CC=C2)N1 | C21H19ClN4
reactant | N-methylpiperazine | 63 mmol, 6.8 ml | CN1CCNCC1 | C5H12N2
reactant | potassium carbonate | 150 mmol, 20.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 450 ml | CN(C)C=O | C3H7NO
product | {6-[4-(4-Methyl-piperazin-1-ylmethyl)-phenyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}-((R)-1-phenyl-ethyl)-amine | CN1CCN(CC1)CC1=CC=C(C=C1)C1=CC2=C(N=CN=C2N[C@H](C)C2=CC=CC=C2)N1 | C26H30N6
